Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.174543125389999
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.2506161914900003
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],0.8590799060709999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[O:6],5.07980679565
[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:9][H:10].[H:8]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.013507104049999
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[O:8][H:9]>>[C:2]#[C:3][C:4]([C:5][O:6][H:7])[O:8][H:9].[H:1],4.81211187425
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1][C:2][H:3],5.27069299972
[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],1.74162330385
[H:1][O:2].[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.1604515396099995
[H:1][C:2][C:3]#[C:4][C:6][C:7][H:8].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8],-4.7739434653
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6],3.81364364824
[C:9]#[C:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-5.006806531640001
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13].[H:1][C:2](=[C:3]=[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],1.12641403022
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8],2.06977547186
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.838328944772
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:16]([H:17])([H:18])[H:19],4.3971665843
[C:3]([H:5])#[C:8][H:9].[O:1][C:2]#[C:4][C:6]([H:7])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.5687632699599998
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7].[O:8][H:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9],-2.9172014038
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9].[H:7],1.89109049729
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.3086808673300006
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][C:12][H:13],0.786629081681
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.7484354004900002
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.58090198
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.35148878996
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[C:3],7.32683973281
[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],0.29010039924000003
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],4.05122515182
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:10][H:11].[C:7]([H:8])([C:9])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-4.21398236308
